US20010044445A1
nicotinaldehyde N-(4-nitrophenyl)hydrazone
3-Pyridine carboxaldehyde (3.69 mL, 0.04 mol), p-nitrophenylhydrazine (6 g, 0.04 mol), 1 drop of acetic acid, and ethanol (150 mL) were combined. The slurry was heated at 100° C. for 12 hours with stirring. After it was cooled to room temperature, the yellow solid was filtered and dried to give the title compound (9.12 g 96%) which was pure enough to use in the next step.

reactant | 3-Pyridine carboxaldehyde | 0.04 mol, 3.69 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | p-nitrophenylhydrazine | 0.04 mol, 6 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | nicotinaldehyde N-(4-nitrophenyl)hydrazone | 9.12 g, 96% | [N+](=O)([O-])C1=CC=C(C=C1)NN=CC1=CN=CC=C1 | C12H10N4O2
